Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall 
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Patient is a ___ year old right handed man with no past medical
history whom presents after he fell and hit his head. 

Patient was outside talking to friend at 4:30 ___ and started to
feel nauseated and if he wanted to throw up.  Patient went to
wash face and as he lifted his head from the sink he passed out. 

Patient hit the back of his head against the bathroom counter.  

Patient reports that shortly before he started to feel nauseated
he took 2 or 3 shots of tequila.  He feels he drank the alcohol
too fast and this is what led him to feel nauseated.  Patient
works as a ___ and reports that he was working outside 
all
day in the heat. 

Patient's fall was witnessed by friend.  He was not with it for
about 90 seconds after hitting head. Denies any abnormal or
stereotyped movements.  

Patient denies any weakness or change in sensation and he came
here simply because he hit his head and it hurt and was 
bleeding.
Tylenol did not help much in relieving head pain.  

On neuro ROS, the patient denies headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. 
Denies difficulties producing or comprehending speech.  Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 

 
Past Medical History:
no past medical history 
 
Social History:
___
Family History:
Patient denies family history of strokes. 
 
Physical Exam:
Admission Physical Exam:
=========================
Admission vitals: 
Temperature: 97.2 
Pulse: 56 
Heart rate: 128/51 
Respiratory rate: 18 
Oxygen saturation: 100% 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: In hard cervical collar
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
Mental Status: 
Alert, oriented x 3. Able to relate history without difficulty.
Attentive, able to name ___ backward without difficulty. 
Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Patient was able to
name both high and low frequency objects.  Able to read without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. Patient was able to register 
3
objects and recall ___ at 5 minutes. There was no evidence of
apraxia or neglect.

Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

Motor: 
Normal bulk, tone throughout. No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA Gastroc   
L  5    ___    5   5    5       5    5         
R  5    ___    5   5    5       5    5         

Sensory: 
No deficits to light touch, pinprick, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS.  

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.
Coordination: 
No intention tremor. Normal finger-tap bilaterally. No dysmetria
on FNF or HKS bilaterally.

Gait: 
Patient cannot walk, in hard cervical collar. 

Discharge Physical Exam 
========================
97.5, 123/79, 48, 18, 97%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: non tender to palpation of vertebral processes or cervical 
muscles, full ROM of neck 
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
Mental Status: 
Alert, oriented x 3. Able to relate history without difficulty.
Attentive, language is fluent with intact repetition and 
comprehension. Normal
prosody. There were no paraphasic errors. Patient was able to 
name both high and low frequency objects. Speech was not 
dysarthric. Able to follow both
midline and appendicular commands. 

Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

Motor: 
Normal bulk, tone throughout. No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA Gastroc   
L  5    ___    5   5    5       5    5         
R  5    ___    5   5    5       5    5     

Right brachioradialis ___     

Sensory: 
No deficits to light touch, pinprick, No extinction to DSS.  

DTRs:
  Bi Tri ___ Pat Ach
L 2+  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.
Coordination: 
No intention tremor. Normal finger-tap bilaterally. No dysmetria
on FNF or HKS bilaterally.

Gait: Normal gait with normal stride lengths 
 
Pertinent Results:
Admission Labs 
================
___ 09:21PM BLOOD WBC-12.1* RBC-4.74 Hgb-14.4 Hct-44.4 
MCV-94 MCH-30.4 MCHC-32.4 RDW-12.9 RDWSD-44.4 Plt ___
___ 09:21PM BLOOD Glucose-94 UreaN-18 Creat-1.0 Na-141 
K-4.0 Cl-101 HCO3-27 AnGap-13
___ 10:20AM BLOOD ALT-17 AST-26 LD(LDH)-214 CK(CPK)-242 
AlkPhos-80 TotBili-0.5
___ 10:20AM BLOOD TotProt-6.9 Albumin-4.0 Globuln-2.9 
Cholest-235*

Important Labs 
================
___ 10:20AM BLOOD %HbA1c-5.6 eAG-114
___ 10:20AM BLOOD TSH-0.61
___ 10:20AM BLOOD CRP-2.7
___ 10:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

Imaging 
========
___ MRI head 
1. Right inferior frontal lobe contusion likely related to 
recent trauma. 
2. Small intraparenchymal hemorrhage in the right parietal lobe 
with 
surrounding blooming on gradient echo images without discrete 
enhancement.  
Subtle FLAIR hyperintensities are also seen in the adjacent 
brain.  The 
appearance is not typical for a posttraumatic hematoma an 
underlying lesion 
such as cavernoma can be suspected.  A follow-up examination is 
recommended. 
3. No definite underlying mass lesion is seen, however 
evaluation is slightly 
limited by presence of blood products.  Follow-up MRI is 
recommended after 
resolution of hemorrhage to ensure no underlying mass lesion. 
  
RECOMMENDATION(S):  Follow-up MRI with and without contrast 
after resolution 
of blood products to further assess small right parietal  
hematoma. 

___ MRI C-spine 
1. At C6-C7 a large right central protrusion, potentially acute 
in nature, 
results in moderate spinal canal narrowing, without underlying 
cord signal 
change or compression of the cord.  The disc extends into the 
right neural 
foramina resulting in severe right C6-C7 neural foraminal 
narrowing, likely 
impinging on the exiting nerve root. 
2. Multilevel multifactorial cervical spondylosis, resulting in 
mild-to-moderate spinal canal narrowing at C3-C4 and C4-C5, with 
moderate 
left-greater-than-right neural foraminal narrowing at these 
levels.  No 
high-grade spinal canal narrowing. 
3. No cord signal abnormality. 
4. Within confines of mildly motion degraded examination, no 
evidence of 
ligamentous injury.  No evidence for subtle occult fracture. 
5. Additional findings as described above. 

___ Elbow Radiograph 
No acute fracture or dislocation.  No joint effusion.  No 
concerning lytic or 
sclerotic osseous abnormality.  Joint spaces are preserved.  
Minimal 
degenerative spurring involving the humeroulnar joint.  No 
radiopaque foreign 
body or soft tissue calcification. 
  
IMPRESSION:  
No acute fracture or dislocation. 

___ CT C spine 
Other than mild straightening of the usual cervical lordosis, 
alignment is 
normal. No fractures are identified.  Multilevel degenerative 
changes are seen throughout the cervical spine but are most 
notable and moderate at the C5-6 level with loss of 
intervertebral disc space, vacuum disc phenomenon, mild 
osteophytosis, and subchondral sclerosis.  Disc bulges at the 
C3-4, C4-5, and C6-7 levels cause mild-to-moderate spinal canal 
narrowing.  There is moderate bilateral neural foraminal 
narrowing at the C5-6 level predominantly due to uncovertebral 
hypertrophy and a small degree of facet hypertrophy.  There is 
no prevertebral soft tissue swelling. There is no evidence of 
infection or 
neoplasm.  Thyroid gland is heterogeneous without dominant 
nodule.  Small bleb is seen in the right medial apex of the 
lung. 
  
IMPRESSION: 
1. No acute fracture or traumatic malalignment. 
2. Multilevel mild degenerative changes and disc bulges with 
mild to moderate spinal canal narrowing as described above. 

___ CT head 
 
Other than mild straightening of the usual cervical lordosis, 
alignment is 
normal. No fractures are identified.  Multilevel degenerative 
changes are seen 
throughout the cervical spine but are most notable and moderate 
at the C5-6 
level with loss of intervertebral disc space, vacuum disc 
phenomenon, mild 
osteophytosis, and subchondral sclerosis.  Disc bulges at the 
C3-4, C4-5, and 
C6-7 levels cause mild-to-moderate spinal canal narrowing.  
There is moderate 
bilateral neural foraminal narrowing at the C5-6 level 
predominantly due to 
uncovertebral hypertrophy and a small degree of facet 
hypertrophy.  There is 
no prevertebral soft tissue swelling. There is no evidence of 
infection or 
neoplasm.  Thyroid gland is heterogeneous without dominant 
nodule.  Small bleb is seen in the right medial apex of the 
lung. 
  
IMPRESSION: 
1. No acute fracture or traumatic malalignment. 
2. Multilevel mild degenerative changes and disc bulges with 
mild to moderate 
spinal canal narrowing as described above. 

 
Brief Hospital Course:
Patient is a ___ year old right handed man with no past medical
history whom presents after hitting the back of his head found 
to
have small right sided parietal intraparenchymal hemorrhage. 

#Right Prietal intraparenchymal hemorrhage
#Right inferior frontal contusion: Initial imaging with CT 
showed small hyperdensity suggestive of traumatic IPH. He had a 
normal neurologic examination. He was seen and assessed by 
neurosurgery who felt that there was no need for urgent 
intervention. MRI was done and showed right inferior frontal 
lobe contusion. The small IPH was stable on MRI but did not 
appear typical for posttraumatic hematoma and suspected possible 
underlying cavernoma, no definite underlying mass. He will 
follow up with Neurosurgery for evaluation of possible resection 
and repeat MRI. 

#Syncope: Patient presented after syncopal fall. Felt likely d/t 
hypovolemia and alcohol consumption. Patient had been working 
outside all day (temp90s) had not consumed food or fluids for 
most of the day and then consumed alcohol in the evening. EKG 
showed mild sinus brady (rates in ___, and T wave inversions in 
V1-V2. Trops were negative x2. There was no evidence of tachy or 
bradyarrhythmias, pre-excitation, or prolonged QTc on EKG. 
During hospitalization he was monitored without recurrence of 
symptoms and was able to ambulate without difficulty. 

#C6-C7 disc herniation, right neural foraminal narrowing 
#C3 nerve impingement
#Cervical spondylosis 
Patient had MRI C-spine that showed right central disc 
protrusion at C6-C7 with canal narrowing but without cord signal 
change. Also showed severe right C6-C7 neural foraminal 
narrowing. In addition, there was evidence of multilevel 
cervical spondylosis and canal narrowing at C3-C5. On exam 
patient had hyper-asthesia in C3 distribution but no evidence of 
C6 nerve involvement other than mildly brisker biceps reflex on 
the right. He was full strength in his right upper extremity 
without any sensory changes other than C3 area described above. 
He had full ROM in his neck with some muscle tightness but 
without significant pain. He was started on gabapentin for this 
hyper-aesthesia that improved symptoms. 

Transitional Issues 
======================
[] Start gabapentin: 300mg at night for three days, then 300 mg 
morning and night for 3 days, then 300mg three times a day. 
[] Patient can follow up with Concussion Clinic as needed
[] Patient had stitches placed on ___. Please remove these if 
needed at PCP follow up appointment
[] Please consider referral for outpatient ___ if patient still 
having neck pain
[] Patient will follow up with Neurosurgery for cavernous 
malformation, cervical spondylosis, and C6-C7 disc herniation 

AHA/ASA Core Measures for Intracerebral Hemorrhage 
1. Dysphagia screening before any PO intake? (x) Yes - () No. If 
no, reason why: 
2. DVT Prophylaxis administered? () Yes - (x) No. If no, why 
not- hemorrhage 
3. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate] 
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No 
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No. If no, why not? (I.e. patient at 
baseline functional status) 

 
Medications on Admission:
none 
 
Discharge Medications:
1.  Gabapentin 300 mg PO TID Duration: 14 Days 
300mg at night three day, increase to Twice a day 3 days, then 3 
times a day 
RX *gabapentin 300 mg 1 capsule(s) by mouth TID (up titrate) 
Disp #*33 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
=================
Right frontal contusion
Right parietal cavernous malformation 
C3 and C6 nerve impingement
Right frontal contusion 

 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
You were hospitalized because you fell and hit your head that 
resulted in a small bleed in your brain. You also hurt your neck 
that is causing inflammation of the nerves in your neck that is 
causing pain. 
 
We are changing your medications as follows:  
 - starting gabapentin for 2 weeks to help with the nerve pain 
in your neck. Start taking this only at night for three days. 
Then increased to twice a day for three days, then increased to 
three times a day. 
  
Please take your other medications as prescribed.  
 
Please follow up with Neurology and your primary care physician 
as listed below.  
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body
 - worsening neck pain that shoots down your arm   
 
Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___